US06900353B2
Preparation of {2-Hydroxy-2-[4-(2-{[(methylethyl)sulfonyl]amino}ethoxy)phenyl]cyclopentyl}[(methylethyl)sulfonyl]amine
The title compound is prepared in a manner analogous to the procedure set forth in example 51 from 2-propanesulfonyl chloride and {2-[4-(2-aminoethoxy)phenyl]-2-hydroxycyclopentyl}[(methylethyl)sulfonyl]amine.

reactant | 2-propanesulfonyl chloride | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | {2-[4-(2-aminoethoxy)phenyl]-2-hydroxycyclopentyl}[(methylethyl)sulfonyl]amine | NCCOC1=CC=C(C=C1)C1(C(CCC1)NS(=O)(=O)C(C)C)O | C16H26N2O4S
product | {2-Hydroxy-2-[4-(2-{[(methylethyl)sulfonyl]amino}ethoxy)phenyl]cyclopentyl}[(methylethyl)sulfonyl]amine | OC1(C(CCC1)NS(=O)(=O)C(C)C)C1=CC=C(C=C1)OCCNS(=O)(=O)C(C)C | C19H32N2O6S2
